US05574040
A suspension of m-aminoacetophenone (2.7 g) and 2-amino-4-chloro-6-methylpyrimidine (2.87 g) in 40 mL water was treated with 1.7 mL concentrated HCl and heated at reflux for 1 hour. Addition of 40 mL 1N KOH gave a light buff solid, which was filtered out and dried to give 3.8 g 4-(3-acetylphenyl)amino-2-amino-6-methylpyrimidine, mp 196°-98° C.

reactant | m-aminoacetophenone | 2.7 g | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | 2-amino-4-chloro-6-methylpyrimidine | 2.87 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | HCl | 1.7 mL | Cl | ClH
reactant | KOH | 1N, 40 mL | [OH-].[K+]
solvent | water | 40 mL | O | H2O
product | 4-(3-acetylphenyl)amino-2-amino-6-methylpyrimidine | 3.8 g | C(C)(=O)C=1C=C(C=CC1)NC1=NC(=NC(=C1)C)N | C13H14N4O
